US05900050
Examples 12-14 Treatment of perylene pigment
Example 12 describes the conditioning of crude perylenediimide presscake (Pigment Violet 29) according to the invention. Comparison Example 13 was carried out by the same method as used for Example 12 except for omitting the N-lauryl-β-iminodipropionic acid sodium salt. Comparison Example 14 was carried out by the same method as used for Example 12 except for omitting the N-lauryl-β-iminodipropionic acid sodium salt and the mixture of sodium dioctyl sulfosuccinate and aliphatic naphtha during conditioning.

reactant | perylenediimide | C1=CC2=C3C(=CC=C4C3=C1C5=C6C4=CC=C7C6=C(C=C5)C(=O)NC7=O)C(=O)NC2=O | C24H10N2O4
reactant | sodium dioctyl sulfosuccinate | S(=O)(=O)(O)C(C(=O)OCCCCCCCC)CC(=O)OCCCCCCCC.[Na]
product | perylene | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | C20H12
